US08431695B2
Step 1: Preparation of 2-benzyl-3-chloro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole
To a solution of 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-Indazole (200 mg, 0.598 mmol) in THF (2 mL), was added N-chlorosuccinimide (95.9 mg, 0.718 mmol). The mixture was heated at 40° C. for 4 hr, cooled to rt then concentrated to dryness. The crude material was purified by ISCO® chromatography using a gradient of 1-7% EtOAc in hexane to afford the desired product (180.1 mg, 82%). 1H NMR (400 MHz, DMF-d6) δ 7.98 (s, 1H), 7.59 (d, 1H), 7.38-7.28 (m, 4H), 7.22-7.19 (m, 2H), 5.74 (s, 2H), 1.34 (s, 12H); LC-MS m/z [M+H]+ 369.2, RT 3.94 min.

reactant | 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-Indazole | 0.598 mmol, 200 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)B1OC(C(O1)(C)C)(C)C | C20H23BN2O2
reactant | N-chlorosuccinimide | 0.718 mmol, 95.9 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-benzyl-3-chloro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole | 180.1 mg, 82% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1Cl)B1OC(C(O1)(C)C)(C)C | C20H22BClN2O2
